### PR TITLE
[Merged by Bors] - feat(CategoryTheory): Relation between the Grothendieck construction and `AsSmall`

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Category/ULift.lean [hunk 1]
```diff
@@ -182,6 +193,12 @@ def AsSmall.equiv : C ≌ AsSmall C where
   unitIso := NatIso.ofComponents fun _ => eqToIso rfl
   counitIso := NatIso.ofComponents fun _ => eqToIso <| ULift.ext _ _ rfl
 
+/-- Assigning to each category `C` the small category `AsSmall C` induces a functor `Cat ⥤ Cat`. -/
+@[simps]
+def asSmall : Cat.{v₁, u₁} ⥤ Cat.{max w₁ v₁ u₁, max w₁ v₁ u₁} where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/ULift.lean:198]: In order to minimize imports (cf. large-import tag), could you move this definition to a new file `CategoryTheory.Category.Cat.AsSmall`. I believe the definition should have a `Cat` prefix, like `Cat.asSmallFunctor`.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 2]
```diff
@@ -38,11 +39,12 @@ See also `CategoryTheory.Functor.Elements` for the category of elements of funct
...
 
-universe u
+universe u v u₁ v₁ w
 
 namespace CategoryTheory
 
-variable {C D : Type*} [Category C] [Category D]
+variable {C : Type u} [Category.{v} C]
+variable {D : Type u₁} [Category.{v₁} D]
 variable (F : C ⥤ Cat)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:48]: I guess we should specify explicit universes for `Cat` here.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 3]
```diff
@@ -38,11 +39,12 @@ See also `CategoryTheory.Functor.Elements` for the category of elements of funct
 -/
 
 
-universe u
+universe u v u₁ v₁ w
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:42]:
```suggestion
universe w u v u₁ v₁
```
I think `w` should appear first so that we could do `compAsSmallEquivalenceInverse.{w}` if we need to specify explicit universes for the definitions below.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 4]
```diff
@@ -229,9 +230,67 @@ theorem map_comp_eq (α : F ⟶ G) (β : G ⟶ H) :
...
+  functor := compAsSmallEquivalenceFunctor F
+  inverse := compAsSmallEquivalenceInverse F
+  counitIso := NatIso.ofComponents (fun ⟨_, _⟩ => Iso.refl _)
+  unitIso := NatIso.ofComponents
+    fun ⟨_, ⟨_⟩⟩ => eqToIso (by {
+      simp only [Functor.id_obj, compAsSmallEquivalenceFunctor, AsSmall.down_obj, AsSmall.down_map,
+        compAsSmallEquivalenceInverse, Cat.of_α, AsSmall.up_obj_down, Functor.comp_obj, id_eq,
+        mk.injEq, Cat.asSmallFunctor_obj, heq_eq_eq, true_and]
+      apply ULift.ext
+      rfl })
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:265]:
```suggestion
  counitIso := Iso.refl _
  unitIso := Iso.refl _
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 5]
```diff
@@ -229,9 +230,61 @@ theorem map_comp_eq (α : F ⟶ G) (β : G ⟶ H) :
 if possible, and we should prefer `map_comp_iso` to `map_comp_eq` whenever we can. -/
 def mapCompIso (α : F ⟶ G) (β : G ⟶ H) : map (α ≫ β) ≅ map α ⋙ map β := eqToIso (map_comp_eq α β)
 
-end
+variable (F)
 
-universe v
+/-- The inverse functor to build the equivalence `compAsSmallEquivalence`. -/
+@[simps]
+def compAsSmallEquivalenceInverse :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:237]: Could you insert `Functor` (for `asSmallFunctor`) in all the definitions:
```suggestion
def compAsSmallFunctorEquivalenceInverse :
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 6]
```diff
@@ -229,9 +230,65 @@ theorem map_comp_eq (α : F ⟶ G) (β : G ⟶ H) :
...
+    Grothendieck (F ⋙ Cat.asSmallFunctor.{w}) ≌ Grothendieck F where
+  functor := compAsSmallFunctorEquivalenceFunctor F
+  inverse := compAsSmallFunctorEquivalenceInverse F
+  counitIso := Iso.refl _
+  unitIso := Iso.refl _
+
+/-- Mapping a Grothendieck construction along the whiskering of any natural transformation
+`α : F ⟶ G` with the functor `asSmall : Cat ⥤ Cat` is naturally isomorphic to conjugating
+`map α` with the equivalence between `Grothendieck (F ⋙ asSmall)` and `Grothendieck F`. -/
+def mapWhiskerRightAsSmall (α : F ⟶ G) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:265]:
```suggestion
def mapWhiskerRightAsSmallFunctor (α : F ⟶ G) :
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 7]
```diff
@@ -229,9 +230,65 @@ theorem map_comp_eq (α : F ⟶ G) (β : G ⟶ H) :
...
+@[simps]
+def compAsSmallFunctorEquivalence :
+    Grothendieck (F ⋙ Cat.asSmallFunctor.{w}) ≌ Grothendieck F where
+  functor := compAsSmallFunctorEquivalenceFunctor F
+  inverse := compAsSmallFunctorEquivalenceInverse F
+  counitIso := Iso.refl _
+  unitIso := Iso.refl _
+
+/-- Mapping a Grothendieck construction along the whiskering of any natural transformation
+`α : F ⟶ G` with the functor `asSmall : Cat ⥤ Cat` is naturally isomorphic to conjugating
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:263]:
```suggestion
`α : F ⟶ G` with the functor `asSmallFunctor : Cat ⥤ Cat` is naturally isomorphic to conjugating
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 8]
```diff
@@ -229,9 +230,65 @@ theorem map_comp_eq (α : F ⟶ G) (β : G ⟶ H) :
...
+/-- The functor to build the equivalence `compAsSmallFunctorEquivalence`. -/
+@[simps]
+def compAsSmallFunctorEquivalenceFunctor :
+    Grothendieck (F ⋙ Cat.asSmallFunctor.{w}) ⥤ Grothendieck F where
+  obj X := ⟨X.base, AsSmall.down.obj X.fiber⟩
+  map f := ⟨f.base, AsSmall.down.map f.fiber⟩
+  map_id _ := by apply Grothendieck.ext <;> simp
+  map_comp _ _ := by apply Grothendieck.ext <;> simp [down_comp]
+
+/-- Taking the Grothendieck construction on `F ⋙ asSmall`, where `asSmall : Cat ⥤ Cat` is the
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:251]:
```suggestion
/-- Taking the Grothendieck construction on `F ⋙ asSmallFunctor`, where `asSmallFunctor : Cat ⥤ Cat` is the
```

**Comment by joelriou** [comment]
Thanks!

bors merge
